US08541411B2
a) 2-methyl-6-morpholino-1-(naphthalen-1-ylmethyl)-1H-benzo[d]imidazol-4-amine
TiCl3 (19.7 mL) was added to a solution of 4-(2-methyl-3-(naphthalen-1-ylmethyl)-7-nitro-3H-benzo[d]imidazol-5-yl)morpholine (1.82 g), prepared following the same procedure as in Example 4, and NH4OAc (4.85 g) in MeOH (150 mL). After stirring for 7 min at room temperature, TLC showed no starting material remaining. The pH of the mixture was made basic by adding aqueous Na2CO3 solution. The solvent was removed under reduced pressure and the residue was extracted with DCM (250 mL×2). The combined organic layers were washed with brine, dried over anhydrous Na2SO4, filtered and concentrated in-vacuo to afford the desired product as a white solid (1.52 g, 91%). 1H NMR (300 MHz, CDCl3) δ ppm 2.47 (s, 3H), 3.02 (t, 4H, J=4.8 Hz), 3.78 (t, 4H, J=4.8 Hz), 4.30 (s, 2H), 5.68 (s, 2H), 6.05 (d, 1H, J=1.8 Hz), 6.25 (d, 1H, J=1.8 Hz), 6.56 (d, 1H, J=7.5 Hz), 7.27 (t, 1H, J=7.5 Hz), 7.55-7.66 (m, 2H), 7.77 (d, 1H, J=8.1 Hz), 7.93 (d, 1H, J=8.1 Hz), 8.05 (d, 1H, J=8.1 Hz); LC-MS: m/e=373 [M+1]+.

reactant | 4-(2-methyl-3-(naphthalen-1-ylmethyl)-7-nitro-3H-benzo[d]imidazol-5-yl)morpholine | 1.82 g | CC=1N(C2=C(N1)C(=CC(=C2)N2CCOCC2)[N+](=O)[O-])CC2=CC=CC1=CC=CC=C21 | C23H22N4O3
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
solvent | MeOH | 150 mL | CO | CH4O
product | 2-methyl-6-morpholino-1-(naphthalen-1-ylmethyl)-1H-benzo[d]imidazol-4-amine | 1.52 g, 91% | CC1=NC2=C(N1CC1=CC=CC3=CC=CC=C13)C=C(C=C2N)N2CCOCC2 | C23H24N4O
